* Z:\mnt\design.r\spice\examples\3955.asc
C1 N004 0 1µ
L1 IN N001 22µ
R2 N002 N006 1Meg
R3 N006 0 16.9K
D1 N001 N002 MBRS360
R4 N002 N008 .5
C2 N002 0 2.2µ x5
V1 IN 0 PWL(0 0 .2m 24)
R5 IN N003 332K
R6 N003 0 100K
C3 N014 0 4700p
C4 N013 0 .01µ
R7 N009 0 28.7K
D4 N008 N011 LXK2-PW14 N=12
C5 N015 0 47n
M§Q2 N011 N010 0 0 IRF1310
V2 N012 0 4
R8 N012 N013 124K
XU1 N005 N015 NC_01 N013 N009 N003 N004 IN N001 N010 N010 N006 N008 N002 N014 N007 0 0 0 LT3955
R9 IN N007 332K
R10 N007 0 40.2K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 25m startup
.lib LT3955.sub
.backanno
.end
